### PR TITLE
[Merged by Bors] - feat(Order/Comparable): comparability/incomparability relations

### PR DESCRIPTION
**Pull request by vihdzp**
We define two new relations for comparability and incomparability in a preorder, and introduce basic API for them. See [this comment](https://github.com/leanprover-community/mathlib4/pull/19580#issuecomment-2692533565) for an explanation of why we want both.

This will be used in the new [CGT repo](https://github.com/vihdzp/combinatorial-games) to define the fuzzy relation `x ‖ y = IncompRel (· ≤ ·) x y`.

---

- [x] depends on: #19571
- [x] depends on: #21202

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by jsm28** [comment]
If you do want to use a different symbol, U+01C1 LATIN LETTER LATERAL CLICK `ǁ` and U+23F8 DOUBLE VERTICAL BAR `⏸` are also options to consider.

**Comment by YaelDillies** [comment]
(please don't request my review on PRs that are `blocked-by-other-PR`)

**Comment by YaelDillies** [comment]
Can you merge master to reduce the diff?

File: Mathlib/Order/Incomparable.lean [hunk 1]
```diff
@@ -0,0 +1,136 @@
...
+
+@[simp]
+theorem incompRel_compl : IncompRel rᶜ = AntisymmRel r := by
+  simp [IncompRel, AntisymmRel, compl]
+
+theorem incompRel_swap : IncompRel (swap r) = IncompRel r :=
+  antisymmRel_swap _
+
+@[refl]
+theorem incompRel_refl [IsIrrefl α r] (a : α) : IncompRel r a a :=
```
Comment (vihdzp) [inline Mathlib/Order/Incomparable.lean:49]: Small question: should this be `incompRel_refl` or `IncompRel.refl`? Likewise, should the version with implicit arguments (which I haven't added yet) be `incompRel_rfl` or `IncompRel.rfl`?

I suspect the convention we're using on `AntisymmRel` currently is wrong on both counts, but I want to make sure.

Comment (YaelDillies) [reply Mathlib/Order/Incomparable.lean:49]: `IncompRel.refl`/`IncompRel.rfl` so that we can use it with anonymous dot notation

File: Mathlib/Order/Incomparable.lean [hunk 2]
```diff
@@ -0,0 +1,139 @@
...
+
+section Relation
+
+variable (r : α → α → Prop)
+
+/-- The incomparability relation `IncompRel r a b` means `¬ r a b` and `¬ r b a`. -/
+def IncompRel : α → α → Prop :=
+  AntisymmRel rᶜ
+
+theorem incompRel_iff {r} : IncompRel r a b ↔ ¬ r a b ∧ ¬ r b a := Iff.rfl
```
Comment (YaelDillies) [inline Mathlib/Order/Incomparable.lean:31]: I'd suggest swapping the definition with the one coming from the RHS of the lemma. This way:
* You don't need `incompRel_iff` as it's just the equational lemma now
* `simp [← antisymmRel_compl]` won't loop anymore

File: Mathlib/Order/Incomparable.lean [hunk 3]
```diff
@@ -0,0 +1,150 @@
...
+open Function OrderDual
+
+variable {α : Type*} {a b c d : α}
+
+section Relation
+
+variable (r : α → α → Prop)
+
+/-- The incomparability relation `IncompRel r a b` means `¬ r a b` and `¬ r b a`. -/
+def IncompRel (a b : α) : Prop :=
```
Comment (YaelDillies) [inline Mathlib/Order/Incomparable.lean:28]: What about
```suggestion
def Order.Incomparable (a b : α) : Prop :=
```
? This carries more semantic meaning. I would be happy for `AntisymmRel` to be renamed to `Order.Indistinguishable` if you feel strongly about the names matching

File: Mathlib/Order/Incomparable.lean [hunk 4]
```diff
@@ -0,0 +1,150 @@
...
+  ¬ r a b ∧ ¬ r b a
+
+theorem IncompRel.not_le [LE α] (h : IncompRel (· ≤ ·) a b) : ¬ a ≤ b := h.1
+theorem IncompRel.not_ge [LE α] (h : IncompRel (· ≤ ·) a b) : ¬ b ≤ a := h.2
+theorem LE.le.not_incompRel [LE α] (h : a ≤ b) : ¬ IncompRel (· ≤ ·) a b := fun h' ↦ h'.not_le h
```
Comment (YaelDillies) [inline Mathlib/Order/Incomparable.lean:33]: Can this move out of the `Relation` section? It's supposed to be about an arbitrary relation, not about `LE`

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Order/Incomparable.lean (hunk 4 above)
Comment (vihdzp) [reply Mathlib/Order/Incomparable.lean:33]: I'll put them at the very end, like I did with `AntisymmRel`.

File: Mathlib/Order/Incomparable.lean [hunk 5]
```diff
@@ -0,0 +1,150 @@
...
+  rw [IncompRel, not_and_or, not_not, not_not]
+  exact IsTotal.total a b
+
+theorem IncompRel.not_le [LE α] (h : IncompRel (· ≤ ·) a b) : ¬ a ≤ b := h.1
+theorem IncompRel.not_ge [LE α] (h : IncompRel (· ≤ ·) a b) : ¬ b ≤ a := h.2
+theorem LE.le.not_incompRel [LE α] (h : a ≤ b) : ¬ IncompRel (· ≤ ·) a b := fun h' ↦ h'.not_le h
+
+end Relation
+
+section Preorder
```
Comment (YaelDillies) [inline Mathlib/Order/Incomparable.lean:94]: But then why not do it correctly? You already have a `Preorder` section
```suggestion

end Relation

section LE

variable [LE α]

theorem IncompRel.not_le (h : IncompRel (· ≤ ·) a b) : ¬ a ≤ b := h.1
theorem IncompRel.not_ge (h : IncompRel (· ≤ ·) a b) : ¬ b ≤ a := h.2
theorem LE.le.not_incompRel (h : a ≤ b) : ¬ IncompRel (· ≤ ·) a b := fun h' ↦ h'.not_le h

end LE

section Preorder
```

Comment (vihdzp) [reply Mathlib/Order/Incomparable.lean]: Alright, I've updated the `Antisymmetrization` file to match.

**Comment by b-mehta** [comment]
What's the reason to introduce the negation here? That is, is the best way to talk about two elements being comparable now to say that they are not incomparable?

**Comment by vihdzp** [comment]
I think the negation is useful since we can now completely partition the possibilities for two elements in a preorder: either `a < b`, `b < a`, `AntisymmRel (. ≤ .) a b` or `IncompRel (. ≤ .) a b`.

**Comment by j-loreaux** [comment]
I'm going to second Bhavik's question, despite your answer: what's the point of this? Sure we can partiction the possibilities, but how useful is `IncompRel` in practice? What are you going to do with it?

**Comment by vihdzp** [comment]
`IncompRel` is the fuzzy relation on games, and is very relevant within their study. My goal here is to generalize this notion away from `PGame` so it can be used on all the relevant quotients of games, and for other preorders if we ever want to.

**Comment by b-mehta** [comment]
> I think the negation is useful since we can now completely partition the possibilities for two elements in a preorder: either `a < b`, `b < a`, `AntisymmRel (. ≤ .) a b` or `IncompRel (. ≤ .) a b`.

I'm not quite sure this answers the question: I could just as well write the last option as `¬ CompRel (. ≤ .) a b`. More broadly, comparability and incomparability both show up, I'd rather define comparability and write incomparability as "not comparable" vs defining incomparability and writing comparability as "not incomparable". 

But to say a bit more about the use of (either one of) these relations, these notions show up reasonably often when working with preorders and partial orders, in fact [IsChain](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Chain.html#IsChain) takes in something exactly like this (and gets used in every Zorn argument in Lean). To me, `CompRel` in a partial order plays the same role as [Commute](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Commute/Defs.html#Commute) does in a ring (if every pair is CompRel we have a linear order, if every pair is Commute we have a commring). 

And to tie both of these together, if we have `CompRel` then we can write `IsChain` in terms of that.

**Comment by vihdzp** [comment]
Does it ever make sense to have both? After all, just like chains use comparability, antichains use incomparability.

**Comment by b-mehta** [comment]
I don't think it does, except potentially if IncompRel is an abbrev, since they're just negations of each other. I don't believe mathlib has many pairs of definitions which are no more than negations.

**Comment by vihdzp** [comment]
Alright, I'll rework this PR when I find the time.

**Comment by vihdzp** [comment]
I've reworked this PR to define `CompRel` as the comparability relation instead - everything else is basically ported verbatim from the original PR.

File: Mathlib/Order/Comparable.lean [hunk 6]
```diff
@@ -0,0 +1,147 @@
...
+
+section Relation
+
+variable {r : α → α → Prop}
+
+/-- The comparability relation `CompRel r a b` means that either `r a b` or `r b a`. -/
+def CompRel (r : α → α → Prop) (a b : α) : Prop :=
+  r a b ∨ r b a
+
+theorem CompRel.of_rel {a b : α} (h : r a b) : CompRel r a b :=
```
Comment (vihdzp) [inline Mathlib/Order/Comparable.lean:35]:
```suggestion
theorem CompRel.of_rel (h : r a b) : CompRel r a b :=
```

File: Mathlib/Order/Comparable.lean [hunk 7]
```diff
@@ -0,0 +1,147 @@
...
+  Or.inl h
+
+theorem CompRel.of_rel_symm {a b : α} (h : r b a) : CompRel r a b :=
```
Comment (vihdzp) [inline Mathlib/Order/Comparable.lean:38]:
```suggestion
theorem CompRel.of_rel_symm (h : r b a) : CompRel r a b :=
```

File: Mathlib/Order/Comparable.lean [hunk 8]
```diff
@@ -0,0 +1,147 @@
...
+  funext₂ fun _ _ ↦ propext or_comm
+
+theorem compRel_swap_apply (r : α → α → Prop) : CompRel (swap r) a b ↔ CompRel r a b :=
+  or_comm
+
+@[refl]
+theorem CompRel.refl (r : α → α → Prop) [IsRefl α r] (a : α) : CompRel r a a :=
+  .of_rel (_root_.refl _)
+
+theorem CompRel.rfl [IsRefl α r] {a : α} : CompRel r a a := .refl ..
```
Comment (vihdzp) [inline Mathlib/Order/Comparable.lean:51]:
```suggestion
theorem CompRel.rfl [IsRefl α r] : CompRel r a a := .refl ..
```

**Comment by vihdzp** [comment]
Perhaps we can reconsider having both `CompRel` and `IncompRel`? It might be obvious to us as mathematicians that `¬ (r x y ∨ r y x) ↔ ¬ r x y ∧ ¬ r y x`, but this extra layer of indirection ends up making `¬ CompRel` more inconvenient than `IncompRel` was. For instance, while we can use constructor notation `⟨h₁, h₂⟩` to build `IncompRel`, we can't do the same for `¬ CompRel` - we'd have to declare a theorem like `not_compRel_of_not_rel` to get the same thing done.

Also, I want to use this relation within game theory, and in that context, incomparability is by far the more natural notion. `IncompRel (· ≤ ·) G 0` represents a concrete outcome for the game `G`: it is won by the first player. On the other hand, `CompRel (· ≤ ·) G 0` represents one of three other outcomes: the game is won by the second player, or by Left, or by Right. 

This wouldn't be something without precedent. After all, we have both `FInite` and `Infinite` in Mathlib and no one has complained yet.

**Comment by b-mehta** [comment]
Thinking about this more, I agree with you. Another nice example is Subsingleton and Nontrivial, where we have both, and they're expressed in a more interesting way than as the negation of the other. Let's go with both here too!

**Comment by vihdzp** [comment]
I've updated the PR yet again, to include both the comparability and incomparability relations.

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Order/Comparable.lean [hunk 9]
```diff
@@ -0,0 +1,289 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Violeta Hernández Palacios
+-/
+import Mathlib.Order.Antisymmetrization
+
+/-!
+# Comparability and incomparability relations
+
+Two values in a preorder are said to be comparable whenever `a ≤ b` or `b ≤ a`. We define both the
+comparability and incomparability relations.
```
Comment (b-mehta) [inline Mathlib/Order/Comparable.lean:12]: Let's add a comment here saying that CompRel is always true in a linear order and IncompRel is always false; as well as a (maybe simp) lemma proving this. 

Let's also add a TODO to make a linear order from a partial order where CompRel always holds (or you can do it in this PR, that's up to you).

**Review by b-mehta — COMMENTED** [review]
bors d+

Thanks!
